US06121308
1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(hydroxycarbonylmethyl)-benzoylamino]-benzimidazole
Prepared analogously to Example 3 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-benzoylamino]-benzimidazole and sodium hydroxide solution.

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-benzoylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)C(C2=CC=CC=C2)=O)CNC2=CC=C(C=C2)C(N)=N | C27H28N6O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(hydroxycarbonylmethyl)-benzoylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)O)C(C2=CC=CC=C2)=O)CNC2=CC=C(C=C2)C(N)=N | C25H24N6O3
